* PSpice Model Editor - Version 10.0.0

*$
.SUBCKT ncp1117_adj1-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 15, 95
*Rev. Date: Dec. 20, 1994
*Positive Adjustable Regulator
*External Node Designations
*node 1: VREF (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 2.88462e-06
RST6 135 2 15000
RIQX 133 132 RQIX 2884.62
.MODEL RQIX RES (TC1=-0)
RSET 19 2 RSET 1250
.MODEL RSET RES (TC1=8e-05 TC2=5.28e-07)
RS1 10 12 0.0071
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 8
RISC 30 2 RISC 10000
.MODEL RISC RES (TC1=0)
ROV 34 2 2000
VOV 33 34 18
EOV2 2 40 34 2 1
FIQD 3 2 VSENS1 0
RY 52 54 2e+07
RA 72 73 3.65905e+07
RYR 71 72 4.46584e+06
CRA 52 73 3.8765e-12
HSTEP 76 2 VSENS1 0.071
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_adj1-x
*$
.SUBCKT ncp1117_285-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*   Modeling services provided by    *
*      Interface Technologies        *
*            www.i-t.com             *
**************************************
*Model generated on 12/19/2004
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 1.81818e-06
RST6 135 2 10000
RIQX 133 132 RQIX 1818.18
.MODEL RQIX RES(TC1=-0.001163)
RSET 19 2 RSET 2850
.MODEL RSET RES(
+TC1=0 
+TC2=0)
RS1 10 12 0.0048
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 6.66667
RISC 30 2 RISC 10000	
.MODEL RISC RES(TC1=0)
ROV 34 2 1000
VOV 33 34 18
EOV2 2 40 34 2 3.33333
FIQD 3 2 VSENS1 0
RY 52 54 1.22684e+07
RA 72 73 1e08
RYR 71 72 2.51089e+06
CRA 52 73 0.0001
HSTEP 76 2 VSENS1 0.048
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_285-x
*$
.SUBCKT ncp1117_120-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*   Modeling services provided by    *
*      Interface Technologies        *
*            www.i-t.com             *
**************************************
*Model generated on 12/19/2004
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 3.33333e-06
RST6 135 2 20000
RIQX 133 132 RQIX 3333.33
.MODEL RQIX RES(TC1=-0.001163)
RSET 19 2 RSET 12000
.MODEL RSET RES(
+TC1=0 
+TC2=0)
RS1 10 12 0.02
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 6.66667
RISC 30 2 RISC 10000	
.MODEL RISC RES(TC1=0)
ROV 34 2 1000
VOV 33 34 18
EOV2 2 40 34 2 3.33333
FIQD 3 2 VSENS1 0
RY 52 54 1.00402e+07
RA 72 73 1e08
RYR 71 72 500187
CRA 52 73 0.0001
HSTEP 76 2 VSENS1 0.2
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_120-x
*$
.SUBCKT ncp1117_50-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*   Modeling services provided by    *
*      Interface Technologies        *
*            www.i-t.com             *
**************************************
*Model generated on 12/19/2004
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 2.5e-06
RST6 135 2 15000
RIQX 133 132 RQIX 2500	
.MODEL RQIX RES(TC1=-0.001163)
RSET 19 2 RSET 5000
.MODEL RSET RES(
+TC1=0 
+TC2=0)
RS1 10 12 0.0084
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 6.66667
RISC 30 2 RISC 10000	
.MODEL RISC RES(TC1=0)
ROV 34 2 1000
VOV 33 34 18
EOV2 2 40 34 2 3.33333
FIQD 3 2 VSENS1 0
RY 52 54 1.11111e+07
RA 72 73 1e08
RYR 71 72 1.12102e+06
CRA 52 73 0.0001
HSTEP 76 2 VSENS1 0.084
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_50-x
*$
.SUBCKT ncp1117_33-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*   Modeling services provided by    *
*      Interface Technologies        *
*            www.i-t.com             *
**************************************
*Model generated on 12/19/2004
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 2.5e-06
RST6 135 2 15000
RIQX 133 132 RQIX 2500		  
.MODEL RQIX RES(TC1=-0.001163)
RSET 19 2 RSET 3300
.MODEL RSET RES(
+TC1=0 
+TC2=0)
RS1 10 12 0.0054
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 6.66667
RISC 30 2 RISC 10000	
.MODEL RISC RES(TC1=0)
ROV 34 2 1000
VOV 33 34 18
EOV2 2 40 34 2 3.33333
FIQD 3 2 VSENS1 0
RY 52 54 1.25219e+07
RA 72 73 1e08
RYR 71 72 1.58389e+06
CRA 52 73 0.0001
HSTEP 76 2 VSENS1 0.054
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_33-x
*$
.SUBCKT ncp1117_25-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*   Modeling services provided by    *
*      Interface Technologies        *
*            www.i-t.com             *
**************************************
*Model generated on 12/19/2004
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 1.81818e-06
RST6 135 2 10000
RIQX 133 132 RQIX 1818.18	
.MODEL RQIX RES(TC1=-0.001163)
RSET 19 2 RSET 2500
.MODEL RSET RES(
+TC1=8e-05 
+TC2=5.28e-07)
RS1 10 12 0.004125
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 6.66667
RISC 30 2 RISC 10000
.MODEL RISC RES(TC1=0)
ROV 34 2 1000
VOV 33 34 18
EOV2 2 40 34 2 3.33333
FIQD 3 2 VSENS1 0
RY 52 54 2e+07
RA 72 73 2.30806e+07
RYR 71 72 2.81738e+06
CRA 52 73 6.14545e-13
HSTEP 76 2 VSENS1 0.04125
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_25-x
*$
.SUBCKT ncp1117_20-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*   Modeling services provided by    *
*      Interface Technologies        *
*            www.i-t.com             *
**************************************
*Model generated on 12/19/2004
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 2.66667e-06
RST6 135 2 12000
RIQX 133 132 RQIX 2666.67
.MODEL RQIX RES(TC1=-0.001163)
RSET 19 2 RSET 2000
.MODEL RSET RES(
+TC1=8e-05 
+TC2=5.28e-07)
RS1 10 12 0.00375
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 6.66667
RISC 30 2 RISC 10000
.MODEL RISC RES(TC1=0)
ROV 34 2 1000
VOV 33 34 18
EOV2 2 40 34 2 3.33333
FIQD 3 2 VSENS1 0
RY 52 54 2e+06
RA 72 73 2.5899e+07
RYR 71 72 3.16128e+06
CRA 52 73 5.47672e-13
HSTEP 76 2 VSENS1 0.0375
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_20-x
*$
.SUBCKT ncp1117_18-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*   Modeling services provided by    *
*      Interface Technologies        *
*            www.i-t.com             *
**************************************
*Model generated on 12/19/2004
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 2.80952e-06
RST6 135 2 11800
RIQX 133 132 RQIX 2809.52
.MODEL RQIX RES(TC1=-0.001163)
RSET 19 2 RSET 1800
.MODEL RSET RES(
+TC1=8e-05 
+TC2=5.28e-07)
RS1 10 12 0.00325
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 6.66667
RISC 30 2 RISC 10000
.MODEL RISC RES(TC1=0)
ROV 34 2 1000
VOV 33 34 18
EOV2 2 40 34 2 3.33333
FIQD 3 2 VSENS1 0
RY 52 54 2.52525e+06
RA 72 73 1.08219e+07
RYR 71 72 4.46584e+06
CRA 52 73 1.04107e-12
HSTEP 76 2 VSENS1 0.0325
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_18-x
*$
.SUBCKT ncp1117_15-x 3 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*   Modeling services provided by    *
*      Interface Technologies        *
*            www.i-t.com             *
**************************************
*Model generated on 12/19/2004
*Rev. Date: Dec. 20, 1994
*Positive Fixed Regulator
*External Node Designations
*node 1: VREG (OUTPUT)
*node 2: Ground (Common)
*node 3: Line Voltage
ECCX 131 2 135 2 1.0
VXX 133 2 DC 0
FSET6 2 135 VSENS2 1
FPP 3 2 VXX 1.0
R_YY 31 2 1e6
R_XX 15 2 1e8
R_ZZ 36 2 1e6
R_QQ 65 2 1e8
RXX 1 2 1e8
VSENS1 10 1 DC 0
ISET 2 15 DC 1e-3
DON1 15 16 DMOD1
VSENS2 16 19 DC 0
DON2 15 17 DMOD1
EON2 18 2 3 2 1
FYY 3 2 VSENS1 1
DON3 15 27 DMOD1
VDROP3 28 27 DC 2
EON3 28 2 3 2 4
ELINE 13 42 66 2 1
FSET2 2 36 VSENS2 1
DSC1 36 35 DMOD1
RCL1 36 37 10
DSC2 37 38 DMOD1
ESCCON 38 39 30 2 1
VSCCON 39 40 DC 0
FSC 19 2 VSCCON 1
FSET3 2 31 VSENS2 1
DOV1 31 32 DMOD1
EOV1 32 2 3 1 1
DOV2 31 33 DMOD1
ISET4 2 30 DC 1e-3
ELOAD 41 2 77 2 -1
ERIPPLE 42 41 72 2 1
EREF 12 13 19 2 1
E3 52 2 3 2 1
CBYPS 54 2 0.001
VORB 54 60 DC 0
RB 60 2 1e3
RBR 72 2 1000
CBS2 52 71 1
RSTEP 77 2 1
FRB 2 65 VORB 1
DRB2 65 67 DMOD1
VXRB 67 68 DC -1
EXRB 68 2 1 2 1
DRB1 65 66 DMOD1
RB1 66 2 1000
.MODEL DMOD1 D
*-- DMOD1 DEFAULT PARAMETERS
*IS=1e-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
EXX 132 131 3 131 3.19444e-06
RST6 135 2 11500
RIQX 133 132 RQIX 3194.44
.MODEL RQIX RES(TC1=-0.001163)
RSET 19 2 RSET 1500
.MODEL RSET RES(
+TC1=8e-05 
+TC2=5.28e-07)
RS1 10 12 0.002875
VDROPX 18 17 0.77
HSENSE1 35 2 VSENS1 6.66667
RISC 30 2 RISC 10000
.MODEL RISC RES(TC1=0)
ROV 34 2 1000
VOV 33 34 18
EOV2 2 40 34 2 3.33333
FIQD 3 2 VSENS1 0
RY 52 54 3.33333e+06
RA 72 73 1.08219e+07
RYR 71 72 4.46584e+06
CRA 52 73 1.04107e-12
HSTEP 76 2 VSENS1 0.02875
CSTEP 76 77 5.30516e-06
.ENDS ncp1117_15-x
*$
